US09126972B2
7.2: 2-Ethylamino-4-iodo-benzoic acid
3.5 g (13.16 mmol) of 2-fluoro-4-iodobenzoic acid were mixed to a 16.11 ml solution of ethylamine (70% in water) in a sealed tube. The reaction vessel was heated and stirred at 125° C. during 24 hours. Nitrogen was bubbled through the reaction mixture to eliminate the excess of ethylamine. The reaction mixture was than poured into an iced water solution and the mixture acidified to pH=3-4 with acetic acid. The resulting white solid was then filtered off, washed with water and dried to give 2.2 g (7.55 mmol).

reactant | 2-fluoro-4-iodobenzoic acid | 13.16 mmol, 3.5 g | FC1=C(C(=O)O)C=CC(=C1)I | C7H4FIO2
reactant | ethylamine | C(C)N | C2H7N
product | 2-Ethylamino-4-iodo-benzoic acid | C(C)NC1=C(C(=O)O)C=CC(=C1)I | C9H10INO2
